US04644063
(1) (4RS,5SR)-4-(1-methylethyl)-5-phenyl-3-(3-piperidinopropyl)-1,3-oxazolidine-2-one
(1RS,2SR)-3-Methyl-1-phenyl-2-(3-piperidinopropylamino)butane-1-ol dihydrochloride (755 mg, 2.00 mmol) was suspended in a 10% aqueons solution of sodium hydroxide (12 ml), followed by addition of ether (28 ml). The mixture was stirred and, when became clear, ice-cooled. A 20% solution of trichloromethyl chloroformate (hereinafter referred to simply as "TCF") in toluene (4.0 ml) was added dropwise over one hour. After completion of the TCF addition, the mixture was stirred at room temperature for 30 minutes. The organic layer was separated, washed once with brine, dried over sodium sulfate and then evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (silica gel: 7 g, solvent: chloroform/methanol=20/1) to obtain 613 mg of the intended compound as pale yellow crystals (yield: 93%).

reactant | (1RS,2SR)-3-Methyl-1-phenyl-2-(3-piperidinopropylamino)butane-1-ol dihydrochloride | 2.00 mmol, 755 mg | Cl.Cl.CC(C(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | ether | 28 ml | CCOCC | C4H10O
reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | (4RS,5SR)-4-(1-methylethyl)-5-phenyl-3-(3-piperidinopropyl)-1,3-oxazolidine-2-one | 613 mg, yield: 93% | CC(C)C1N(C(OC1C1=CC=CC=C1)=O)CCCN1CCCCC1 | C20H30N2O2
